US05026700
A sample of methyl 4-methoxycarbonylmethyloxy-2-quinolinecarboxylate(0.20 g, 0.00073 mole) prepared as in Example II, was hydrolyzed by the addition of lM LiOH (2.2 ml, 0.0022 mole) in H2O/MeOH. After stirring for 18 hours, the MeOH was evaporated, the product dissolved in H2O, and acidified to pH 2.6 with lN HCl thereby precipitating a white solid. A yield of 0.15 g (83%) of 4-carboxymethyloxy-2-quinolinecarboxylic acid was obtained after filtering and drying in a vacuum dessicator. Melting point was 240° C. (dec.).

reactant | methyl 4-methoxycarbonylmethyloxy-2-quinolinecarboxylate | 0.00073 mole, 0.20 g | COC(=O)COC1=CC(=NC2=CC=CC=C12)C(=O)OC | C14H13NO5
reactant | LiOH | 0.0022 mole, 2.2 ml | [Li+].[OH-]
solvent | H2O MeOH | O.CO
product | 4-carboxymethyloxy-2-quinolinecarboxylic acid | yield of 0.15 g, 83% | C(=O)(O)COC1=CC(=NC2=CC=CC=C12)C(=O)O | C12H9NO5
